US09422244B2
1.25 g (1 mol equiv.) 3-Ethyl-4,5-dihydro-1H-pyrazole (synthesized as described in WO 2008/034863) and 1.45 ml (1.3 mol equiv.) ethyl isothiocyanate were added to 10 mL ethanol. The reaction mixture was refluxed for 5 hours, silica gel was added and volatiles were removed in vacuo. Purification by flash chromatography on silica gel (Et2O:PA=1:1) afforded 1.54 g (65%) 3-ethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide. 1H NMR (400 MHz, CDCl3) δ 1.18 (t, J=7.5 Hz, 3H), 1.25 (t, J=7.2 Hz, 3H), 2.38 (q, J=7.5 Hz, 2H), 2.83 (t, J=9.9 Hz, 2H), 3.63-3.72 (m, 2H), 4.19 (t, J=9.9 Hz, 2H), 7.06 (br.s., 1H).

reactant | 3-Ethyl-4,5-dihydro-1H-pyrazole | 1 mol, 1.25 g | C(C)C1=NNCC1 | C5H10N2
reactant | ethyl isothiocyanate | 1.3 mol, 1.45 ml | C(C)N=C=S | C3H5NS
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-ethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide | 1.54 g, 65% | C(C)NC(=S)N1N=C(CC1)CC | C8H15N3S
